US09428510B2
Hydrazine (3.86 ml, 79 mmol) is added at room temperature to 7 g (26.5 mmol) of a solution of 2-chloro-5-iodonicotinonitrile in 25 ml of propan-2-ol. The reaction mixture is heated at 85° C. for 7 hours and then at room temperature overnight. The suspended solid is filtered, rinsed with isopropanol and then with ether and dried in an oven at 50° C. to give 6 g (87%) of 5-iodo-1H-pyrazolo[3,4-b]pyridine-3-amine.

reactant | Hydrazine | 79 mmol, 3.86 ml | NN | H4N2
reactant | 2-chloro-5-iodonicotinonitrile | ClC1=C(C#N)C=C(C=N1)I | C6H2ClIN2
solvent | propan-2-ol | 25 ml | CC(C)O | C3H8O
product | 5-iodo-1H-pyrazolo[3,4-b]pyridine-3-amine | 6 g, 87% | IC=1C=C2C(=NC1)NN=C2N | C6H5IN4
